US09227956B2
tert-butyl (3R)-3-[{4-[5-(4-{1-[(ethoxycarbonyl)oxy]ethyl}-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1-methyl-1H-pyrazol-4-yl]benzoyl}(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate (52 mg, 0.08 mmol) was dissolved in DCM (5 mL) and to the solution was added HCl in dioxane (0.5 mL, 4M solution, 2 mmol) and stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo. The resulting residue was triturated in diethyl ether to yield ethyl 1-{3-[1-methyl-4-(4-{(3-methylpyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1H-pyrazol-5-yl]-5-oxo-1,2,4-oxadiazol-4(5H)-yl}ethyl carbonate as a light yellow solid (40 mg, 80%).

reactant | tert-butyl (3R)-3-[{4-[5-(4-{1-[(ethoxycarbonyl)oxy]ethyl}-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1-methyl-1H-pyrazol-4-yl]benzoyl}(3-methylpyridin-2-yl)amino]piperidine-1-carboxylate | 0.08 mmol, 52 mg | C(C)OC(=O)OC(C)N1C(=NOC1=O)C1=C(C=NN1C)C1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC=C2C)C=C1 | C34H41N7O8
reactant | HCl | Cl | ClH
reactant | dioxane | 2 mmol, 4M, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 1-{3-[1-methyl-4-(4-{(3-methylpyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1H-pyrazol-5-yl]-5-oxo-1,2,4-oxadiazol-4(5H)-yl}ethyl carbonate | 40 mg, 80% | C(OCC)(OC(C)N1C(=NOC1=O)C1=C(C=NN1C)C1=CC=C(C=C1)C(N([C@H]1CNCCC1)C1=NC=CC=C1C)=O)=O | C29H33N7O6
